US05234935
Dipropyl 4-(4-bromophenyl)-1,2,6-trimethyl-1,4-dihydropyridine-3,5-dicarboxylate
A solution of 6.22 g (0.02 mol) of propyl 2-(4-bromobenzylidene)acetoacetate and 3.14 g (0.02 mol) of propyl 3-methylamino-crotonate in 25 ml of 2-butanol is stirred under reflux for 10 hours. The mixture is then concentrated in vacuo, and the precipitate formed in the cold is filtered off with suction. After recrystallization from propanol, 5.32 g (59.1% of theory) of melting point 97°-99° C. are obtained.

reactant | propyl 2-(4-bromobenzylidene)acetoacetate | 0.02 mol, 6.22 g | BrC1=CC=C(C=C(C(=O)OCCC)C(=O)C)C=C1 | C14H15BrO3
reactant | propyl 3-methylamino-crotonate | 0.02 mol, 3.14 g | CN\C(=C/C(=O)OCCC)\C | C8H15NO2
solvent | 2-butanol | 25 ml | CC(CC)O | C4H10O
product | Dipropyl 4-(4-bromophenyl)-1,2,6-trimethyl-1,4-dihydropyridine-3,5-dicarboxylate | BrC1=CC=C(C=C1)C1C(=C(N(C(=C1C(=O)OCCC)C)C)C)C(=O)OCCC | C22H28BrNO4
